US04468399
A reaction mixture was prepared from 1.26 g. of 2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethylamine and 1.36 g. of 2-methylthio-5-(3-pyridyl)methoxy-4-pyrimidone in 20 ml. of pyridine. The reaction mixture was heated to reflux temperature for about 2 days. The pyridine was then removed by evaporation in vacuo and the resulting residue subjected to high pressure liquid chromatography over silica. Fractions shown by tlc to contain the desired compound were combined and the combined fractions rechromatographed on a silica preparative plate using 3% ammoniated ethanol as the solvent. 2-[2-(2-Dimethylaminomethyl-4-thiazolylmethylthio)ethyl]amino-5-(3-pyridyl)methoxy-4-pyrimidone free base thus obtained was converted to the trihydrochloride salt by standard procedures. Recrystallization of the crude trihydrochloride salt from ethanol yielded 2-[2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl]amino-5-(3-pyridyl)methoxy-4-pyrimidone trihydrochloride melting at 183°-185° C.

reactant | 2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethylamine | CN(C)CC=1SC=C(N1)CSCCN | C9H17N3S2
reactant | 2-methylthio-5-(3-pyridyl)methoxy-4-pyrimidone | CSC1=NC=C(C(N1)=O)OCC=1C=NC=CC1 | C11H11N3O2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-[2-(2-Dimethylaminomethyl-4-thiazolylmethylthio)ethyl]amino-5-(3-pyridyl)methoxy-4-pyrimidone | CN(C)CC=1SC=C(N1)CSCCNC1=NC=C(C(N1)=O)OCC=1C=NC=CC1 | C19H24N6O2S2
